Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Vancomycin Analogues / Percocet / Vicodin / Tramadol / morphine
 
Attending: ___.
 
Chief Complaint:
Transplant ureteral stricture
 
Major Surgical or Invasive Procedure:
___: ureteral stricture s/p nephrostomy; s/p revision 
ureteral reimplantation

 
History of Present Illness:
Per Dr ___, this patient is a ___ man with a 
longstanding kidney transplant who has recently developed a 
stenosis at the transplant ureteral neocystostomy.  This was 
treated 18 months ago with percutaneous dilatation and 
percutaneous nephrostomy tube.  The stricture resolved, but
then has recurred requiring re-replacement of a percutaneous 
nephrostomy tube and repeated dilatations.  The stricture did 
not appear to be improving at this point and operative revision 
was recommended. 
 
Past Medical History:
Ureteral hydronephrosis ___ ?secondary to involvement of 
ureter with right inguinal hernia - treated with stenting, 
several balloon dilatations and eventual removal of stent; ESRD 
___ Alport syndrome; HTN;  Hypercholesterolemia; Hodgkin's 
lymphoma in the neck s/p radiation therapy.

Past Surgical History:
Arteriovenous fistulae *2 none functioning now. 3 renal 
transplants: LRRT in ___ CRT in ___ which functioned until 
___,  Last renal transplant in ___.
 
Social History:
___
Family History:
Alports
 
Physical Exam:
T 96.9, 65, 142/82, 18, 94% 3L
General ([post-op) sedated but arousable
Card: RRR, no M/R/G
Lungs: CTA bilaterally
Abd: Soft, dressings intact, nephrostomy bag to drainage
Extr: No edema
 
Pertinent Results:
ON admission (post op) ___
Hct-40.7
Glucose-93 UreaN-29* Creat-1.8* Na-140 K-4.4 Cl-107 HCO3-22 
AnGap-15
Calcium-8.9 Phos-4.4 Mg-1.6
At Discharge ___
WBC-8.0 RBC-4.17* Hgb-13.1* Hct-39.7* MCV-95 MCH-31.4 MCHC-33.0 
RDW-14.8 Plt ___
Glucose-112* UreaN-20 Creat-1.7* Na-138 K-5.0 Cl-103 HCO3-24 
AnGap-16
Calcium-9.1 Phos-3.6 Mg-2.___ y/o male with ureteral stricture (late) in kidney transplant 
patient, taken to the OR with Dr ___ for ___ of 
ureteroneocystostomy. Please see the operative note for surgical 
detail. The surgery was without complicating and he was 
transferred to the PACU in stable condition.
Initially he was having pain control issues, and has several 
narcotic allergies. He was started on dilaudid with good effect.
The nephrostomy tube was uncapped during surgery and he was 
having excellent urine output.
By POD 3 the nephrostomy tube was capped.
He had developed ___ tenderness and erythema, there 
was no induration or drainage. The patient has a vancomycin 
allergy, and initially he was to receive Ancef, this was changed 
per ID recommendation to Ceftarolin. Then for discharge to home 
combination of Augmentin and Bactrim was set for 10 day course. 
The erythema has receded. No clips were removed.
The patient also had c/o bloating and abdominal discomfort. He 
was given an aggressive bowel regimen with good effect, and the 
discomfort subsided.
Immunosuppression was continued per home regimen (CSA, 
Azathioprine and prednisone)
Creatinine remained stable throughout hospital course.
 
Medications on Admission:
BSS'', Diltiazem SR 240 QPM, Fish oil QPM, Fosamax 70 ___, 
Hydralazine 25'', MVI, Omeprazole 20 QPM, Imuran 150 QPM, 
Cyclosporine 100 QHS, Prednisone 5 QPM, Ezetimibe 10 QPM, 
Fluticasone 50mcg nasal spray daily
 
Discharge Medications:
1. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
2. prednisone 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

3. DILT-XR 240 mg Capsule,Ext Release Degradable Sig: One (1) 
Capsule,Ext Release Degradable PO at bedtime.  
4. Fish Oil 1,000 mg Capsule Sig: One (1) Capsule PO at bedtime. 
 
5. Fosamax 70 mg Tablet Sig: One (1) Tablet PO once a week.  
6. hydralazine 25 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
7. multivitamin     Tablet Sig: One (1) Tablet PO once a day.  
8. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
9. azathioprine 50 mg Tablet Sig: Three (3) Tablet PO at 
bedtime.  
10. cyclosporine 100 mg Capsule Sig: One (1) Capsule PO at 
bedtime.  
11. ezetimibe 10 mg Tablet Sig: One (1) Tablet PO at bedtime.  
12. fluticasone 50 mcg/actuation Spray, Suspension Sig: Two (2) 
Spray Nasal DAILY (Daily).  
13. hydromorphone 2 mg Tablet Sig: One (1) Tablet PO Q4H (every 
4 hours) as needed for pain.
Disp:*20 Tablet(s)* Refills:*0*
14. amoxicillin-pot clavulanate 875-125 mg Tablet Sig: One (1) 
Tablet PO Q12H (every 12 hours) for 9 days.
Disp:*18 Tablet(s)* Refills:*0*
15. sulfamethoxazole-trimethoprim 800-160 mg Tablet Sig: Two (2) 
Tablet PO BID (2 times a day) for 9 days.
Disp:*36 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Ureteral stricture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please call the transplant clinic at ___ for fever, 
chills, nausea, vomiting, diarrhea, constipation, decreased 
urine output, pain over the graft kidney, urinary frequency, 
pain/burning on urination, inability to tolerate foods, fluids 
or medications, increased incisional redness, drainage or 
bleeding, redness or drainage around the nephrostomy site 
insertion or any other concerning symptoms.
Continue home medications as you have been taking them except 
the Bactrim single strength. For the next 9 days you should 
complete the course of double strength bactrim in addition to 
augmentin for the incisional redness.
It is recommended you have labs drawn ___ while you are 
taking these antibiotics as they can cause your cell counts to 
be low.
No heavy lifting
No driving if taking narcotic pain medication
You may shower, no tub baths or swimming until notified you may 
do so. Please place a drain sponge around the nephrostomy site 
daily and following your shower.
Keep nephrostomy tube capped unless the transplant clinic 
notifies you to open to bag drainage
 
Followup Instructions:
___